US06060612
Preparation of 1,2-bis(N-(2-hydroxyethyl)-palmitoylamino)ethane
Into other 500 ml rounded-flask, were introduced 4.0 g of magnesium oxide and 80 g of distilled water. The mixture was stirred. Thereto was added 7.3 g of N,N'-bis(2-hydroxyethyl)-1,2-diaminoethane prepared above and 250 ml of 1,4-dioxane. 27.5 g of palmitoyl chloride was gradually added dropwise to the resulting mixture for 1 hour under violent stirring at a room temperature. After stirring for 2 hours, the mixture was filtered, and then the filtrate was mixed with 200 ml of chloroform and washed twice with 200 ml of distilled water. Organic phase was cooled to produce solid material, which was recovered by filtration. The solid material was dried and recrystallized from chloroform/acetone and chloroform/hexane, to give 24.3 g of the title compound as white powder, which was identified by IR and NMR. The results are shown in Table 3.

reactant | magnesium oxide | 4.0 g | [O-2].[Mg+2]
reactant | water | 80 g | O | H2O
reactant | N,N'-bis(2-hydroxyethyl)-1,2-diaminoethane | 7.3 g | OCCNCCNCCO | C6H16N2O2
reactant | palmitoyl chloride | 27.5 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 1,2-bis(N-(2-hydroxyethyl)-palmitoylamino)ethane | 24.3 g | OCCN(CCN(CCO)C(CCCCCCCCCCCCCCC)=O)C(CCCCCCCCCCCCCCC)=O | C38H76N2O4
